US07923450B2
b) Methyl 6,6-ethylendioxy-2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazoline-8-carboxylate
The title compound was prepared from methyl 9-[1-dimethylamino-methylidene]-8-oxo-1,4-dioxa-spiro[4.5]decane-7-carboxylic acid methyl ester (80 mg, 0.3 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (83 mg, 0.22 mmol) using in analogous manner the procedure described in example 45b). Obtained as a pale-yellow solid (37 mg, 27%). MS ISP (m/e): 452.1 [(M+H)+]. mp 180-182° C.

reactant | methyl 9-[1-dimethylamino-methylidene]-8-oxo-1,4-dioxa-spiro[4.5]decane-7-carboxylic acid methyl ester | 0.3 mmol, 80 mg | COC(=O)C1CC2(OCC(O2)C)CC(C1=O)=CN(C)C | C14H21NO5
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.22 mmol, 83 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | Methyl 6,6-ethylendioxy-2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazoline-8-carboxylate | C1OC2(CC=3C=NC(=NC3C(C2)C(=O)OC)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC)OC1 | C23H25N5O5
